US07153878B2
3-(4-{2-[4-Isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid
A solution of 3-(4-{2-[4-isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid methyl ester (239 mg, 0.473) in MeOH (1.0 mL) and THF (0.5 mL) is treated with NaOH (1.5 mL, 2.0 M) and stirred at room temperature for 12 hours. The mixture is neutralized to pH=4 with HCl (5 N) and extracted with EtOAc (20 mL×2), and the combined organics are dried (Na2SO4), concentrated and purified on silica gel chromatography column with EtOAc/Hexanes (50/50) to yield the acid as white solid (202 mg, 87%). MS (ES): 492.2; the structure is also confirmed by proton NMR.

reactant | 3-(4-{2-[4-isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid methyl ester | 239 mg | COC(CCC1=C(C=C(C=C1)OCC(C)C1=C(N=C(O1)C1=CC=C(C=C1)OC(F)(F)F)C(C)C)C)=O | C27H30F3NO5
reactant | NaOH | 2.0 M, 1.5 mL | [OH-].[Na+]
reactant | HCl | 5 N | Cl | ClH
solvent | MeOH | 1.0 mL | CO | CH4O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 3-(4-{2-[4-Isopropyl-2-(4-trifluoromethoxy-phenyl)-oxazol-5-yl]-propoxy}-2-methyl-phenyl)-propionic acid | 202 mg, 87% | C(C)(C)C=1N=C(OC1C(COC1=CC(=C(C=C1)CCC(=O)O)C)C)C1=CC=C(C=C1)OC(F)(F)F | C26H28F3NO5
